Name:  ___        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Penicillins / adhesive tape / fentanyl
 
Attending: ___.
 
Chief Complaint:
Status epilepticus
 
Major Surgical or Invasive Procedure:
N/A
 
History of Present Illness:
___ year old man with pmhx COPD, NIDDM, bipolar d/o with
psychotic features, HLD, lung nodules, multiple rib fractures 
who
was brought to ___ ED for confusion after being found by
police wandering around a parking lot with unsteady gait and
confusion ( +visual hallucinations. Per report his wife died in
___ and he has since been eating poorly stopped taking his
meds. He also endorsed etoh abuse every other day. In the ED he
was found to have mild leukocyotosis 10.25, mild ___ Scr 1.5
(although baseline is unclear)and Tbili of 4.7, LDH 261. His tox
screen was + cannabis. He was also noted to cough up yellow
sputum. He underwent a CT scan of his head which showed a small
subacute left frontal hypodense lesion. While in CT scanner he
proceeded to have "grand mal sz which was terminated with 0.5mg
Ativan. He was wheeled back to his room and reportedly had
another sz involving tonic clonic movement of head. He was
subsequently given keppra 750mg and another 1mg of Ativan
subsequently admitted to their ICU where he received another
500mg keppra and banana bag with thiamine. He did not require
intubation while at the OSH.
While in the ICU he was noted to have a low grade temp to 100.7.
LP was attempted but unsuccessful and he was started on empiric
abx with vanc and meropenem. 
After discussion with ___ neurology chief, pt was loaded with
keppra 20mg/kg and maintenance of 10mg/kg was started.

Of note he was suppose to get MRI head, CXR, and abdominal US at
OSH which have not been completed.  

On arrival to  ___, pt is HD stable, vitals T 97.8F, HR 84,
147/99, RR 14, Spo299% 2 L NC. Continues to have episodes of
right sided head turning which lasted 10 seconds and were 
aborted
with yelling pt's name loudly.  

 
Past Medical History:
COPD
Bipolar D/O
DM
Lung nodules
chronic back pain
multiple rib fractures

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:T 97.8F, HR 84, 147/99, RR 14, Spo299% 2 L NC.  
General: NAD 
HEENT:dry mucous membrane, no oropharyngeal lesions  
Neck:supple  
CV: RRR 
Lungs: rhonchiin b/l LL fields 
Abdomen: NTND 
GU:Deferred 
Ext: No c/c/e 
Neuro: awake, PERRL, EOMI, does only answer with yes or no, 
knows
his name, season. Does follow appendicular commands b/L like 
show
me thumbs, lift arms) follows cross-body commands B/L. Strength
full throughout, sensation intact to light touch, reflexes*** 
Skin: no rashes

DISCHARGE:
General: NAD 
HEENT: dry mucous membranes, no oropharyngeal lesions
Neck: supple
CV: RRR 
Lungs: CTAB
Abdomen: NTND 
GU: Deferred 
Ext: R shoulder discomfort w/ muscle testing, No c/c/e 
Skin: no rashes

Neuro:
- MS: awake, increased response latencies, oriented to person,
place, and time. Follows midline and appendicular commands 
- CN:  PERRL 3>2 bilaterally and symmetric, no
ptosis appreciated, EOMI w/o nystagmus, facial sensation and 
musculature symmetric
- Motor: move all extremities spontaneously, antigravity and
against resistance. Rhythmic jaw jerks noted.
- Sensation: intact throughout to light touch
-Reflexes: DTR 2+ throughout, plantar downgoing
- Cerebellar: minimal dysmetria on the left
 
Pertinent Results:
At OSH: CT head- 
a 2 cm left frontal white matter hypodense lesion, most likely 
microangiopathic/white matter infarct. No intracranial mass or 
lesion
 
CXR ___  
No previous images.  The cardiac silhouette is at the upper 
limits of normal or mildly enlarged and there is tortuosity of 
the aorta.  Mild indistinctness of pulmonary vessels suggests 
some elevated pulmonary venous pressure.  No acute pneumonia or 
pleural effusion. 

MRI ___
FINDINGS:  
The examination is mildly motion degraded.  Within these 
confines: 
There is no intra or extra-axial mass, acute hemorrhage or acute 
infarct.  Left middle frontal gyrus white matter FLAIR 
hyperintensity (series 13, image 17) corresponding to 
hypodensity seen on outside hospital CT examination may 
represent sequela of prior infarct. There are superimposed 
periventricular and subcortical T2/FLAIR white matter 
hyperintensities, which are nonspecific, but compatible with 
chronic microangiopathy in a patient of this age.  There is no 
abnormal postcontrast enhancement. 
 
The major intracranial flow voids are preserved.  The dural 
venous sinuses are patent on postcontrast MP-RAGE.  The 
paranasal sinuses are essentially clear.  
The orbits are unremarkable.  The mastoid air cells are clear. 

___ Head w/ and w/o contrast
1. No acute infarct or intracranial hemorrhage. 
2. No abnormal enhancement. 
3. Additional findings as described above. 

___ Head and Neck
1. Left middle frontal white matter hypodensity, likely 
representing sequela 
of chronic infarct. 
2. Otherwise no acute intracranial abnormality including acute 
large 
territorial infarct or hemorrhage. 
3. Patent intracranial vasculature without significant stenosis, 
occlusion, or 
aneurysm. 
4. Mild narrowing at the origins of the bilateral vertebral 
arteries.  
Otherwise patent cervical vasculature without significant 
stenosis, occlusion 
or dissection. 
5. Moderate to severe centrilobular and paraseptal emphysema. 

___ R shoulder
Possible diffuse osteopenia.  No fracture or dislocation is 
detected about the 
right shoulder.  The AC and glenohumeral joints are congruent, 
with mild 
degenerative change.  No bone erosion, aggressive osteolysis or 
periosteal new 
bone formation is identified.  The acromial humeral distance is 
preserved.  
The adjoining portion of the right chest walls grossly 
unremarkable. 
  
IMPRESSION:  
  
No fracture or aggressive lesion detected involving the right 
shoulder. 

___
This is an abnormal continuous EMU monitoring study because of 
mild slowing of the background consistent with a mild 
encephalopathy, which is 
non-specific but may be secondary to medications, 
toxic-metabolic disturbances 
or infection. There are no epileptiform discharges. There are 
two clinical 
events for head turning to the right. The EEG electrodes are 
disconnected 
during these events. 

___ 06:20AM BLOOD WBC-5.4 RBC-4.36* Hgb-14.5 Hct-42.8 
MCV-98 MCH-33.3* MCHC-33.9 RDW-12.2 RDWSD-43.6 Plt ___
___ 11:28AM BLOOD WBC-8.0 RBC-4.68 Hgb-15.6 Hct-44.9 MCV-96 
MCH-33.3* MCHC-34.7 RDW-12.0 RDWSD-42.1 Plt ___
___ 05:04AM BLOOD ___ PTT-28.9 ___
___ 06:20AM BLOOD Glucose-117* UreaN-19 Creat-0.9 Na-142 
K-3.5 Cl-105 HCO3-28 AnGap-13
___ 11:28AM BLOOD Glucose-147* UreaN-23* Creat-1.0 Na-140 
K-2.9* Cl-102 HCO3-28 AnGap-13
___ 06:20AM BLOOD ALT-30 AST-21 LD(LDH)-181 AlkPhos-192* 
TotBili-0.4
___ 11:28AM BLOOD ALT-22 AST-23 LD(LDH)-237 AlkPhos-73 
TotBili-4.4* DirBili-0.7* IndBili-3.7
___ 11:28AM BLOOD Lipase-31
___ 06:20AM BLOOD Albumin-3.3* Calcium-9.0 Phos-3.2 Mg-1.8
___ 11:28AM BLOOD Albumin-3.6 Calcium-9.2 Phos-2.2* Mg-1.7
___ 06:20AM BLOOD Ammonia-55
___ 11:28AM BLOOD TSH-1.4
___ 07:32AM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative IgM HBc-Negative
___ 06:15AM BLOOD Valproa-82
___ 02:30AM BLOOD Phenyto-6.0* Valproa-29*
___ 04:15PM BLOOD Valproa-81
___ 07:41PM BLOOD Phenyto-15.5
___ 07:32AM BLOOD HCV Ab-Negative
___ 12:19PM BLOOD Type-ART pO2-82* pCO2-33* pH-7.52* 
calTCO2-28 Base XS-3
___ 12:53PM BLOOD ___ pO2-171* pCO2-30* pH-7.55* 
calTCO2-27 Base XS-5 Comment-GREEN TOP
 
Brief Hospital Course:
ASSESSMENT:  
___ year old man with pmhx bipolar d/o with psychotic features 
who
was brought to ___ ED for confusion after being found by
police wandering around a parking lot with unsteady gait and
confusion found to have small subacute left frontal hypodense
lesion and seizures.

Seizures:
On ___ pt was admitted to Neuro ICU, started on cvEEG which 
showed frequent seizures. He was loaded with Vimpat 300mgx 1 and 
maintained on Vimpat 200mg BID, was started on topamax and his 
Keppra 1250mg BID (from OSH) was increased to Keppra 1500mg BID. 
He continued to seize and was loaded with IV fosphenytoin 
(20mg/kg) and maintained on fosphenytoin 100mg TID for 
maintenance.He continued to have episodes of right head turning 
lasting ___ seconds wtih EEG correlate. He was subsequently 
loaded with VPA at 30mg/kg load and maintenance 500mg q8h. The 
following day he was re-loaded with fosphenytoin 8mg/kg load for 
corrected am trough of 12 and also started on lorazepam with 2mg 
load followed by 1mg q6h.
His topamax was discontinued secondary to inefficacy.
He underwent an MRI as part of new onset seizure work up which 
showed no evidence of acute stroke or enhancing mass, though 
question of subtle L frontotemporal lobe T2 hyperintensities 
?old infarct.
He was also empirically started on Vancomycin, ceftazidime, 
ampicillin and acyclovir as he was noted to have low grade 
temperature at OSH. LP was performed and showed 1 WBC, 1 RBC, 26 
protein, 99 glucose. Vancomycin, ceftazidime and  ampicillin 
were discontinued, and he was continued only on acyclovir 
empirically.
Patient failed swallow evaluation and NGT was placed and he was 
started on tube feeds. 
His EEG improved after fPHT and VPA load the day prior. 
However, AM troughs low with cPHT 7, VPA 29 and thus he was 
Re-loaded with 10mg/kg of fPHT and 20mg/kg of VPA, and his 
standing VPA was increased to 1000mg q8h.
On exam he was found to have right anisocoria and ptosis 
concerning for Horner's syndrome- CTA head/neck was ordered and 
negative for dissection/occlusion but with left frontal 
hypodensity again concerning for chronic infarct. VPA was 
increased to 1500mg qam and 2000mg qhs to maintain adequate VPA 
trough level. 
Patient was transferred to floor and monitored on EEG for R head 
turning events while VPA was increased. Pt seen to be stable 
without clear electrographic seizures on dose of 2500mg daily 
and 2000mg qhs.

Eoth use disorder:
-Pt was reportedly heavy drinker and thus CIWA protocol was 
initiated. 
CIWA protocol stopped on ___.

Shoulder pain:
Patient was seen to have right shoulder pain with limited 
mobility. XR of the area was performed with no fractures or bone 
pathology seen. He was provided pain medications as needed 
including a Lidocaine patch. He has been scheduled for an 
outpatient MRI of the R shoulder due to concern for rotator cuff 
tear and Orthopedics Clinic follow up. 
 
Medications on Admission:
___:
albuterol
ASA
Congentin 1 mg BID
dilaudid
flovent
imdur 30 daily
Lipitor 80 mg daily
Lopressor 25 mg BID
Paxil 120 daily
Vit D 1000U daily
omeprazole 20 mg daily
ASA 81
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN fevers/pain  
2.  Divalproex (EXTended Release) ___ mg PO QHS  
3.  Divalproex (EXTended Release) 2500 mg PO DAILY  
4.  Docusate Sodium 100 mg PO BID  
5.  FoLIC Acid 1 mg PO DAILY  
6.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate  
7.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
8.  LACOSamide 200 mg PO BID  
9.  LevETIRAcetam 1500 mg PO BID  
10.  Lidocaine 5% Patch 1 PTCH TD QPM  
11.  TraZODone 25 mg PO QHS:PRN Insomnia  
12.  Vitamin D 800 UNIT PO DAILY  
13.  Aspirin 81 mg PO DAILY  
14.  Atorvastatin 80 mg PO QPM  
15.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
16.  Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY  
17.  Metoprolol Tartrate 25 mg PO BID  
18.  Nicotine Patch 14 mg TD DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Seizure d/o

 
Discharge Condition:
Activity Status: Ambulatory - requires assistance or aid ___ 
or cane).
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ and treated by ___ Neurology 
due to presentation with multiple seizures requiring treatment 
with anti-seizure medications. During hospitalization, these 
medications were adjusted and you were monitored on EEG to 
determine if risk of seizure activity was controlled. 

Please continue the following medications:
Keppra 1500mg every 12 hours by mouth
Lacosamide 200mg twice daily by mouth
Valproic Acid by mouth 2500 mg in morning, 2000mg at night

Please followup with Neurology and your primary care physician.  

 
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- Sudden partial or complete loss of vision  
- Sudden loss of the ability to speak words from your mouth  
- Sudden loss of the ability to understand others speaking to 
you  
- Sudden weakness of one side of the body  
- Sudden drooping of one side of the face  
- Sudden loss of sensation of one side of the body  
 
Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___